US07420001B2
To 200 mg (0.67 mmol) of 5-bromo-4-hydroxy-3-methyl-benzofuran-2-carboxylic acid ethyl ester was added 0.5 mL of iodomethane, 200 mg of K2CO3 and 2 mL of DMF. The mixture was stirred at room temperature overnight. The mixture was washed with brine and extracted with ethyl acetate. The combined ethyl acetate layers were washed with brine. Removal of the solvent in vacuo gave 185 mg (88% yield) of 5-bromo-4-methoxy-3-methyl-benzofuran-2-carboxylic acid ethyl ester as a white solid.

reactant | 5-bromo-4-hydroxy-3-methyl-benzofuran-2-carboxylic acid ethyl ester | 0.67 mmol, 200 mg | C(C)OC(=O)C=1OC2=C(C1C)C(=C(C=C2)Br)O | C12H11BrO4
reactant | iodomethane | 0.5 mL | IC | CH3I
reactant | K2CO3 | 200 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 5-bromo-4-methoxy-3-methyl-benzofuran-2-carboxylic acid ethyl ester | 185 mg, 88% yield | C(C)OC(=O)C=1OC2=C(C1C)C(=C(C=C2)Br)OC | C13H13BrO4
